US04855086
5-Phenylpent-4-ynal (3 g) in dry CH2Cl2 (30 ml) was added to a solution of carbethoxymethylenetriphenyl phosphorane (10 g) in dry dichloromethane (20 ml), and the mixture was heated at reflux under a nitrogen atmosphere for 5 hours. The solvent was removed under reduced pressure, and the product was purified by chromatography on silica (150 g), eluting with 2:1 hexane:ether to yield ethyl 7-phenylhept-2E-en-6-ynoate (3.6 g).

reactant | 5-Phenylpent-4-ynal | 3 g | C1(=CC=CC=C1)C#CCCC=O | C11H10O
reactant | carbethoxymethylenetriphenyl phosphorane | 10 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 7-phenylhept-2E-en-6-ynoate | 3.6 g | C1(=CC=CC=C1)C#CCC/C=C/C(=O)OCC | C15H16O2
